US09107916B2
A. methyl 4-cyclopropyl-2-fluorobenzoate
The title compound was prepared from methyl 4-bromo-2-fluorobenzoate and cyclopropylboronic acid according to the procedure for the preparation of EXAMPLE 152, part A. 1H NMR (400 MHz, CDCl3): δ 0.74-0.78 (2H, m), 1.04-1.09 (2H, m), 1.87-1.94 (1H, m), 3.90 (3H, s), 6.75-6.79 (1H, m), 6.86-6.89 (1H, m), 7.79-7.82 (1H, m).

reactant | methyl 4-bromo-2-fluorobenzoate | BrC1=CC(=C(C(=O)OC)C=C1)F | C8H6BrFO2
reactant | cyclopropylboronic acid | C1(CC1)B(O)O | C3H7BO2
product | methyl 4-cyclopropyl-2-fluorobenzoate | C1(CC1)C1=CC(=C(C(=O)OC)C=C1)F | C11H11FO2
